US05688954
A solution of (R)-5-hydroxy-5-(3-pyridyl)pentyl thioacetate (10.0 g) in dichloromethane (200 ml) under nitrogen is cooled to 0° C. and treated with triethylamine (7 ml), followed by methanesulphonyl chloride (3.8 ml), dropwise between -5° C. and 0° C., during 5 minutes. The reaction mixture is then warmed to room temperature. After 60 minutes the mixture is cooled to 10° C. and treated, dropwise during 10 minutes, with a solution of sodium methoxide in methanol (20 ml; 25% w/v). The mixture is allowed to warm to room temperature. After 30 minutes the mixture is washed with water until the pH is between 9 and 10, dried over magnesium sulphate, evaporated and chromatographed, to give (S)-2-(3-pyridyl)tetrahydro-2H-thiopyran (7.5 g; 91% ee), in the form of an amber oil.

reactant | (R)-5-hydroxy-5-(3-pyridyl)pentyl thioacetate | 10.0 g | C(C)(=S)OCCCC[C@H](C=1C=NC=CC1)O | C12H17NO2S
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 3.8 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium methoxide | C[O-].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | (S)-2-(3-pyridyl)tetrahydro-2H-thiopyran | 7.5 g | N1=CC(=CC=C1)[C@H]1SCCCC1 | C10H13NS
